* Temper passive-reva cold-start / settled-normal switching witness.
.include ucc28180-pwm-latch.inc
.param RFREQ=16.2k VAC_RMS=120 FLINE=60 VB_INIT=0 VD_INIT=0
.param RLOAD=190 TSTOP=2.000000000000e-5 STEP=500n
.param T_FAULT=2.000000000000e-6
.param DIV_INIT={VD_INIT*5820/992820}
.param VCC_INIT=0
* Full bridge: the source delivers the measured current; no behavioral rectifier.
Vac acsrc acn SIN(0 {VAC_RMS*1.4142135623730951} {FLINE} 0 0 0)
* Source impedance follows the retained graph: 0.25-ohm source resistance,
* then the 10-ohm NTC in the AC1 leg.  The bypass relay shorts only the NTC.
Rsource acsrc acsrc_r .25
Rntc acsrc_r acp 10
Vbypass bypass_ctl 0 PWL(0 0 100m 0 100.001m 5 200m 5)
Sbypass acsrc_r acp bypass_ctl 0 SWBYP
.model SWBYP SW(Ron=50m Roff=1e12 Vt=2.5 Vh=.1)
Rreference acn 0 1e12
Dbr1 acp rectp DBRIDGE
Dbr2 acn rectp DBRIDGE
Dbr3 bridge_minus acp DBRIDGE
Dbr4 bridge_minus acn DBRIDGE
.model DBRIDGE D(IS=1n N=1.5 RS=10m TT=0 CJO=100p)
Rshunt bridge_minus 0 10m
Rwind rectp lint 20m
Lboost lint sw 180u IC=0
Risense bridge_minus isense 220
Cisense isense 0 1n IC=0
* Parallel SiC legs and finite MOS/channel/body paths copied from04.
Dboost1 sw d1_path DBOOST
Vdboost1sense d1_path vd 0
Dboost2 sw d2_path DBOOST
Vdboost2sense d2_path vd 0
.model DBOOST D(IS=1e-14 N=1.4 RS=20m CJO=45p M=0 VJ=1 TT=0 BV=650 IBV=1u)
Msw sw gate channel_source channel_source STWMOS
Vchannel channel_source 0 0
.model STWMOS NMOS(VTO=4 KP=4 RD=1m RS=1m L=1u W=1u IS=1e-40)
Vbody 0 body_anode 0
Dbody body_anode sw DBODY
.model DBODY D(IS=1n N=1.2 RS=10m CJO=1p TT=8n)
Cds sw 0 344p
Cgd gate sw 112p
Cgs gate 0 12n
Clocal vd 0 19.8u IC={VD_INIT}
Rlocal vd 0 450k
Cbank vb 0 2240u IC={VB_INIT}
Rload load 0 {RLOAD}
Vloadctl loadctl 0 PWL(0 0 100m 0 100.001m 5 500m 5)
Sload vb load loadctl 0 SWLOAD
.model SWLOAD SW(Ron=15m Roff=1e12 Vt=2.5 Vh=.1)
* F2 is the healthy VD-to-VB fuse path and remains closed throughout cold
* start and normal operation; it is not a precharge-control element.
Vf2ctl f2ctl 0 PWL(0 5 {1.999000000000e-6} 5 {2.000000000000e-6} 0 {2.000000000000e-5} 0)
Sf2 vd f2_path f2ctl 0 SWF2
Vf2sense f2_path vb 0
.model SWF2 SW(Ron=15m Roff=1e12 Vt=2.5 Vh=.1)
* Retained actual controller compensation and sensing values.
Rfb1 vb vsense 1meg
Rfb2 vsense 0 13k
Cvsense vsense 0 680p IC=0
Cicomp icomp 0 2.7n IC=0
Rvcomp vcomp vcomp_s 40.2k
Cvcomp_s vcomp_s 0 4.7u IC={VCC_INIT}
Cvcomp_p vcomp 0 220n IC={VCC_INIT}
Xu aux15 vsense isense icomp vcomp pwm 0 UCC28180_FN RFREQ={RFREQ}
* Explicit bounded external rails and sequencing inputs.  They stand in for
* the external auxiliary converter/supervisor until native source integration.
Vaux aux15 0 PWL(0 0 5m 15 200m 15)
Vlogic logic5 0 PWL(0 0 5m 5 200m 5)
Vpermit permit 0 PWL(0 0 8m 0 9m 5 200m 5)
Varm arm 0 PWL(0 0 46m 0 60m 5 200m 5)
Vstandby_cmd standby_req 0 PWL(0 5 60m 5 61m 0 200m 0)
* Physical protection dividers, timer, fresh-edge latch and default-off driver.
.include protection.inc
.include standby.inc
.include clamp.inc
* Negative ISENSE clamp from the selected BAV23C die.  The model is
* explicitly assumed/nominal; no temperature or production tolerance claim.
DCLAMP 0 isense BAV23C_ASSUMED_V2
* Standby worker consumes the physical enable_good/permit interface from the
* protection include.  No q/time-forced standby clamp is present here.
Xstandby aux15 enable_good vsense 0 PFC_STANDBY
* Prepared case F2-START at T_FAULT=2.000000000000e-6 TSTOP=2.000000000000e-5.
* The marker is derived from the actual control waveform, never from hard time.
* SW Vt=2.5 V with Vh=.1 V means nominal rising/falling thresholds are about 2.6/2.4 V; the marker threshold is 2.5 V.
* The 1 ns finite PWL edge bounds source-command ambiguity to 1 ns plus accepted solver sampling.
Bfault_inject fault_inject 0 V=5-V(f2ctl)
* Isolated timing instrument: alternating 25 ns corners from T_FAULT-PREFAULT_WINDOW-25ns to TSTOP.
* This source is not a fault marker and its 1 Gohm load requires production revalidation.
Vschedule schedule_probe 0 PWL(
+ 9.750000000000e-7 0
+ 1.000000000000e-6 1
+ 1.025000000000e-6 0
+ 1.050000000000e-6 1
+ 1.075000000000e-6 0
+ 1.100000000000e-6 1
+ 1.125000000000e-6 0
+ 1.150000000000e-6 1
+ 1.175000000000e-6 0
+ 1.200000000000e-6 1
+ 1.225000000000e-6 0
+ 1.250000000000e-6 1
+ 1.275000000000e-6 0
+ 1.300000000000e-6 1
+ 1.325000000000e-6 0
+ 1.350000000000e-6 1
+ 1.375000000000e-6 0
+ 1.400000000000e-6 1
+ 1.425000000000e-6 0
+ 1.450000000000e-6 1
+ 1.475000000000e-6 0
+ 1.500000000000e-6 1
+ 1.525000000000e-6 0
+ 1.550000000000e-6 1
+ 1.575000000000e-6 0
+ 1.600000000000e-6 1
+ 1.625000000000e-6 0
+ 1.650000000000e-6 1
+ 1.675000000000e-6 0
+ 1.700000000000e-6 1
+ 1.725000000000e-6 0
+ 1.750000000000e-6 1
+ 1.775000000000e-6 0
+ 1.800000000000e-6 1
+ 1.825000000000e-6 0
+ 1.850000000000e-6 1
+ 1.875000000000e-6 0
+ 1.900000000000e-6 1
+ 1.925000000000e-6 0
+ 1.950000000000e-6 1
+ 1.975000000000e-6 0
+ 2.000000000000e-6 1
+ 2.025000000000e-6 0
+ 2.050000000000e-6 1
+ 2.075000000000e-6 0
+ 2.100000000000e-6 1
+ 2.125000000000e-6 0
+ 2.150000000000e-6 1
+ 2.175000000000e-6 0
+ 2.200000000000e-6 1
+ 2.225000000000e-6 0
+ 2.250000000000e-6 1
+ 2.275000000000e-6 0
+ 2.300000000000e-6 1
+ 2.325000000000e-6 0
+ 2.350000000000e-6 1
+ 2.375000000000e-6 0
+ 2.400000000000e-6 1
+ 2.425000000000e-6 0
+ 2.450000000000e-6 1
+ 2.475000000000e-6 0
+ 2.500000000000e-6 1
+ 2.525000000000e-6 0
+ 2.550000000000e-6 1
+ 2.575000000000e-6 0
+ 2.600000000000e-6 1
+ 2.625000000000e-6 0
+ 2.650000000000e-6 1
+ 2.675000000000e-6 0
+ 2.700000000000e-6 1
+ 2.725000000000e-6 0
+ 2.750000000000e-6 1
+ 2.775000000000e-6 0
+ 2.800000000000e-6 1
+ 2.825000000000e-6 0
+ 2.850000000000e-6 1
+ 2.875000000000e-6 0
+ 2.900000000000e-6 1
+ 2.925000000000e-6 0
+ 2.950000000000e-6 1
+ 2.975000000000e-6 0
+ 3.000000000000e-6 1
+ 3.025000000000e-6 0
+ 3.050000000000e-6 1
+ 3.075000000000e-6 0
+ 3.100000000000e-6 1
+ 3.125000000000e-6 0
+ 3.150000000000e-6 1
+ 3.175000000000e-6 0
+ 3.200000000000e-6 1
+ 3.225000000000e-6 0
+ 3.250000000000e-6 1
+ 3.275000000000e-6 0
+ 3.300000000000e-6 1
+ 3.325000000000e-6 0
+ 3.350000000000e-6 1
+ 3.375000000000e-6 0
+ 3.400000000000e-6 1
+ 3.425000000000e-6 0
+ 3.450000000000e-6 1
+ 3.475000000000e-6 0
+ 3.500000000000e-6 1
+ 3.525000000000e-6 0
+ 3.550000000000e-6 1
+ 3.575000000000e-6 0
+ 3.600000000000e-6 1
+ 3.625000000000e-6 0
+ 3.650000000000e-6 1
+ 3.675000000000e-6 0
+ 3.700000000000e-6 1
+ 3.725000000000e-6 0
+ 3.750000000000e-6 1
+ 3.775000000000e-6 0
+ 3.800000000000e-6 1
+ 3.825000000000e-6 0
+ 3.850000000000e-6 1
+ 3.875000000000e-6 0
+ 3.900000000000e-6 1
+ 3.925000000000e-6 0
+ 3.950000000000e-6 1
+ 3.975000000000e-6 0
+ 4.000000000000e-6 1
+ 4.025000000000e-6 0
+ 4.050000000000e-6 1
+ 4.075000000000e-6 0
+ 4.100000000000e-6 1
+ 4.125000000000e-6 0
+ 4.150000000000e-6 1
+ 4.175000000000e-6 0
+ 4.200000000000e-6 1
+ 4.225000000000e-6 0
+ 4.250000000000e-6 1
+ 4.275000000000e-6 0
+ 4.300000000000e-6 1
+ 4.325000000000e-6 0
+ 4.350000000000e-6 1
+ 4.375000000000e-6 0
+ 4.400000000000e-6 1
+ 4.425000000000e-6 0
+ 4.450000000000e-6 1
+ 4.475000000000e-6 0
+ 4.500000000000e-6 1
+ 4.525000000000e-6 0
+ 4.550000000000e-6 1
+ 4.575000000000e-6 0
+ 4.600000000000e-6 1
+ 4.625000000000e-6 0
+ 4.650000000000e-6 1
+ 4.675000000000e-6 0
+ 4.700000000000e-6 1
+ 4.725000000000e-6 0
+ 4.750000000000e-6 1
+ 4.775000000000e-6 0
+ 4.800000000000e-6 1
+ 4.825000000000e-6 0
+ 4.850000000000e-6 1
+ 4.875000000000e-6 0
+ 4.900000000000e-6 1
+ 4.925000000000e-6 0
+ 4.950000000000e-6 1
+ 4.975000000000e-6 0
+ 5.000000000000e-6 1
+ 5.025000000000e-6 0
+ 5.050000000000e-6 1
+ 5.075000000000e-6 0
+ 5.100000000000e-6 1
+ 5.125000000000e-6 0
+ 5.150000000000e-6 1
+ 5.175000000000e-6 0
+ 5.200000000000e-6 1
+ 5.225000000000e-6 0
+ 5.250000000000e-6 1
+ 5.275000000000e-6 0
+ 5.300000000000e-6 1
+ 5.325000000000e-6 0
+ 5.350000000000e-6 1
+ 5.375000000000e-6 0
+ 5.400000000000e-6 1
+ 5.425000000000e-6 0
+ 5.450000000000e-6 1
+ 5.475000000000e-6 0
+ 5.500000000000e-6 1
+ 5.525000000000e-6 0
+ 5.550000000000e-6 1
+ 5.575000000000e-6 0
+ 5.600000000000e-6 1
+ 5.625000000000e-6 0
+ 5.650000000000e-6 1
+ 5.675000000000e-6 0
+ 5.700000000000e-6 1
+ 5.725000000000e-6 0
+ 5.750000000000e-6 1
+ 5.775000000000e-6 0
+ 5.800000000000e-6 1
+ 5.825000000000e-6 0
+ 5.850000000000e-6 1
+ 5.875000000000e-6 0
+ 5.900000000000e-6 1
+ 5.925000000000e-6 0
+ 5.950000000000e-6 1
+ 5.975000000000e-6 0
+ 6.000000000000e-6 1
+ 6.025000000000e-6 0
+ 6.050000000000e-6 1
+ 6.075000000000e-6 0
+ 6.100000000000e-6 1
+ 6.125000000000e-6 0
+ 6.150000000000e-6 1
+ 6.175000000000e-6 0
+ 6.200000000000e-6 1
+ 6.225000000000e-6 0
+ 6.250000000000e-6 1
+ 6.275000000000e-6 0
+ 6.300000000000e-6 1
+ 6.325000000000e-6 0
+ 6.350000000000e-6 1
+ 6.375000000000e-6 0
+ 6.400000000000e-6 1
+ 6.425000000000e-6 0
+ 6.450000000000e-6 1
+ 6.475000000000e-6 0
+ 6.500000000000e-6 1
+ 6.525000000000e-6 0
+ 6.550000000000e-6 1
+ 6.575000000000e-6 0
+ 6.600000000000e-6 1
+ 6.625000000000e-6 0
+ 6.650000000000e-6 1
+ 6.675000000000e-6 0
+ 6.700000000000e-6 1
+ 6.725000000000e-6 0
+ 6.750000000000e-6 1
+ 6.775000000000e-6 0
+ 6.800000000000e-6 1
+ 6.825000000000e-6 0
+ 6.850000000000e-6 1
+ 6.875000000000e-6 0
+ 6.900000000000e-6 1
+ 6.925000000000e-6 0
+ 6.950000000000e-6 1
+ 6.975000000000e-6 0
+ 7.000000000000e-6 1
+ 7.025000000000e-6 0
+ 7.050000000000e-6 1
+ 7.075000000000e-6 0
+ 7.100000000000e-6 1
+ 7.125000000000e-6 0
+ 7.150000000000e-6 1
+ 7.175000000000e-6 0
+ 7.200000000000e-6 1
+ 7.225000000000e-6 0
+ 7.250000000000e-6 1
+ 7.275000000000e-6 0
+ 7.300000000000e-6 1
+ 7.325000000000e-6 0
+ 7.350000000000e-6 1
+ 7.375000000000e-6 0
+ 7.400000000000e-6 1
+ 7.425000000000e-6 0
+ 7.450000000000e-6 1
+ 7.475000000000e-6 0
+ 7.500000000000e-6 1
+ 7.525000000000e-6 0
+ 7.550000000000e-6 1
+ 7.575000000000e-6 0
+ 7.600000000000e-6 1
+ 7.625000000000e-6 0
+ 7.650000000000e-6 1
+ 7.675000000000e-6 0
+ 7.700000000000e-6 1
+ 7.725000000000e-6 0
+ 7.750000000000e-6 1
+ 7.775000000000e-6 0
+ 7.800000000000e-6 1
+ 7.825000000000e-6 0
+ 7.850000000000e-6 1
+ 7.875000000000e-6 0
+ 7.900000000000e-6 1
+ 7.925000000000e-6 0
+ 7.950000000000e-6 1
+ 7.975000000000e-6 0
+ 8.000000000000e-6 1
+ 8.025000000000e-6 0
+ 8.050000000000e-6 1
+ 8.075000000000e-6 0
+ 8.100000000000e-6 1
+ 8.125000000000e-6 0
+ 8.150000000000e-6 1
+ 8.175000000000e-6 0
+ 8.200000000000e-6 1
+ 8.225000000000e-6 0
+ 8.250000000000e-6 1
+ 8.275000000000e-6 0
+ 8.300000000000e-6 1
+ 8.325000000000e-6 0
+ 8.350000000000e-6 1
+ 8.375000000000e-6 0
+ 8.400000000000e-6 1
+ 8.425000000000e-6 0
+ 8.450000000000e-6 1
+ 8.475000000000e-6 0
+ 8.500000000000e-6 1
+ 8.525000000000e-6 0
+ 8.550000000000e-6 1
+ 8.575000000000e-6 0
+ 8.600000000000e-6 1
+ 8.625000000000e-6 0
+ 8.650000000000e-6 1
+ 8.675000000000e-6 0
+ 8.700000000000e-6 1
+ 8.725000000000e-6 0
+ 8.750000000000e-6 1
+ 8.775000000000e-6 0
+ 8.800000000000e-6 1
+ 8.825000000000e-6 0
+ 8.850000000000e-6 1
+ 8.875000000000e-6 0
+ 8.900000000000e-6 1
+ 8.925000000000e-6 0
+ 8.950000000000e-6 1
+ 8.975000000000e-6 0
+ 9.000000000000e-6 1
+ 9.025000000000e-6 0
+ 9.050000000000e-6 1
+ 9.075000000000e-6 0
+ 9.100000000000e-6 1
+ 9.125000000000e-6 0
+ 9.150000000000e-6 1
+ 9.175000000000e-6 0
+ 9.200000000000e-6 1
+ 9.225000000000e-6 0
+ 9.250000000000e-6 1
+ 9.275000000000e-6 0
+ 9.300000000000e-6 1
+ 9.325000000000e-6 0
+ 9.350000000000e-6 1
+ 9.375000000000e-6 0
+ 9.400000000000e-6 1
+ 9.425000000000e-6 0
+ 9.450000000000e-6 1
+ 9.475000000000e-6 0
+ 9.500000000000e-6 1
+ 9.525000000000e-6 0
+ 9.550000000000e-6 1
+ 9.575000000000e-6 0
+ 9.600000000000e-6 1
+ 9.625000000000e-6 0
+ 9.650000000000e-6 1
+ 9.675000000000e-6 0
+ 9.700000000000e-6 1
+ 9.725000000000e-6 0
+ 9.750000000000e-6 1
+ 9.775000000000e-6 0
+ 9.800000000000e-6 1
+ 9.825000000000e-6 0
+ 9.850000000000e-6 1
+ 9.875000000000e-6 0
+ 9.900000000000e-6 1
+ 9.925000000000e-6 0
+ 9.950000000000e-6 1
+ 9.975000000000e-6 0
+ 1.000000000000e-5 1
+ 1.002500000000e-5 0
+ 1.005000000000e-5 1
+ 1.007500000000e-5 0
+ 1.010000000000e-5 1
+ 1.012500000000e-5 0
+ 1.015000000000e-5 1
+ 1.017500000000e-5 0
+ 1.020000000000e-5 1
+ 1.022500000000e-5 0
+ 1.025000000000e-5 1
+ 1.027500000000e-5 0
+ 1.030000000000e-5 1
+ 1.032500000000e-5 0
+ 1.035000000000e-5 1
+ 1.037500000000e-5 0
+ 1.040000000000e-5 1
+ 1.042500000000e-5 0
+ 1.045000000000e-5 1
+ 1.047500000000e-5 0
+ 1.050000000000e-5 1
+ 1.052500000000e-5 0
+ 1.055000000000e-5 1
+ 1.057500000000e-5 0
+ 1.060000000000e-5 1
+ 1.062500000000e-5 0
+ 1.065000000000e-5 1
+ 1.067500000000e-5 0
+ 1.070000000000e-5 1
+ 1.072500000000e-5 0
+ 1.075000000000e-5 1
+ 1.077500000000e-5 0
+ 1.080000000000e-5 1
+ 1.082500000000e-5 0
+ 1.085000000000e-5 1
+ 1.087500000000e-5 0
+ 1.090000000000e-5 1
+ 1.092500000000e-5 0
+ 1.095000000000e-5 1
+ 1.097500000000e-5 0
+ 1.100000000000e-5 1
+ 1.102500000000e-5 0
+ 1.105000000000e-5 1
+ 1.107500000000e-5 0
+ 1.110000000000e-5 1
+ 1.112500000000e-5 0
+ 1.115000000000e-5 1
+ 1.117500000000e-5 0
+ 1.120000000000e-5 1
+ 1.122500000000e-5 0
+ 1.125000000000e-5 1
+ 1.127500000000e-5 0
+ 1.130000000000e-5 1
+ 1.132500000000e-5 0
+ 1.135000000000e-5 1
+ 1.137500000000e-5 0
+ 1.140000000000e-5 1
+ 1.142500000000e-5 0
+ 1.145000000000e-5 1
+ 1.147500000000e-5 0
+ 1.150000000000e-5 1
+ 1.152500000000e-5 0
+ 1.155000000000e-5 1
+ 1.157500000000e-5 0
+ 1.160000000000e-5 1
+ 1.162500000000e-5 0
+ 1.165000000000e-5 1
+ 1.167500000000e-5 0
+ 1.170000000000e-5 1
+ 1.172500000000e-5 0
+ 1.175000000000e-5 1
+ 1.177500000000e-5 0
+ 1.180000000000e-5 1
+ 1.182500000000e-5 0
+ 1.185000000000e-5 1
+ 1.187500000000e-5 0
+ 1.190000000000e-5 1
+ 1.192500000000e-5 0
+ 1.195000000000e-5 1
+ 1.197500000000e-5 0
+ 1.200000000000e-5 1
+ 1.202500000000e-5 0
+ 1.205000000000e-5 1
+ 1.207500000000e-5 0
+ 1.210000000000e-5 1
+ 1.212500000000e-5 0
+ 1.215000000000e-5 1
+ 1.217500000000e-5 0
+ 1.220000000000e-5 1
+ 1.222500000000e-5 0
+ 1.225000000000e-5 1
+ 1.227500000000e-5 0
+ 1.230000000000e-5 1
+ 1.232500000000e-5 0
+ 1.235000000000e-5 1
+ 1.237500000000e-5 0
+ 1.240000000000e-5 1
+ 1.242500000000e-5 0
+ 1.245000000000e-5 1
+ 1.247500000000e-5 0
+ 1.250000000000e-5 1
+ 1.252500000000e-5 0
+ 1.255000000000e-5 1
+ 1.257500000000e-5 0
+ 1.260000000000e-5 1
+ 1.262500000000e-5 0
+ 1.265000000000e-5 1
+ 1.267500000000e-5 0
+ 1.270000000000e-5 1
+ 1.272500000000e-5 0
+ 1.275000000000e-5 1
+ 1.277500000000e-5 0
+ 1.280000000000e-5 1
+ 1.282500000000e-5 0
+ 1.285000000000e-5 1
+ 1.287500000000e-5 0
+ 1.290000000000e-5 1
+ 1.292500000000e-5 0
+ 1.295000000000e-5 1
+ 1.297500000000e-5 0
+ 1.300000000000e-5 1
+ 1.302500000000e-5 0
+ 1.305000000000e-5 1
+ 1.307500000000e-5 0
+ 1.310000000000e-5 1
+ 1.312500000000e-5 0
+ 1.315000000000e-5 1
+ 1.317500000000e-5 0
+ 1.320000000000e-5 1
+ 1.322500000000e-5 0
+ 1.325000000000e-5 1
+ 1.327500000000e-5 0
+ 1.330000000000e-5 1
+ 1.332500000000e-5 0
+ 1.335000000000e-5 1
+ 1.337500000000e-5 0
+ 1.340000000000e-5 1
+ 1.342500000000e-5 0
+ 1.345000000000e-5 1
+ 1.347500000000e-5 0
+ 1.350000000000e-5 1
+ 1.352500000000e-5 0
+ 1.355000000000e-5 1
+ 1.357500000000e-5 0
+ 1.360000000000e-5 1
+ 1.362500000000e-5 0
+ 1.365000000000e-5 1
+ 1.367500000000e-5 0
+ 1.370000000000e-5 1
+ 1.372500000000e-5 0
+ 1.375000000000e-5 1
+ 1.377500000000e-5 0
+ 1.380000000000e-5 1
+ 1.382500000000e-5 0
+ 1.385000000000e-5 1
+ 1.387500000000e-5 0
+ 1.390000000000e-5 1
+ 1.392500000000e-5 0
+ 1.395000000000e-5 1
+ 1.397500000000e-5 0
+ 1.400000000000e-5 1
+ 1.402500000000e-5 0
+ 1.405000000000e-5 1
+ 1.407500000000e-5 0
+ 1.410000000000e-5 1
+ 1.412500000000e-5 0
+ 1.415000000000e-5 1
+ 1.417500000000e-5 0
+ 1.420000000000e-5 1
+ 1.422500000000e-5 0
+ 1.425000000000e-5 1
+ 1.427500000000e-5 0
+ 1.430000000000e-5 1
+ 1.432500000000e-5 0
+ 1.435000000000e-5 1
+ 1.437500000000e-5 0
+ 1.440000000000e-5 1
+ 1.442500000000e-5 0
+ 1.445000000000e-5 1
+ 1.447500000000e-5 0
+ 1.450000000000e-5 1
+ 1.452500000000e-5 0
+ 1.455000000000e-5 1
+ 1.457500000000e-5 0
+ 1.460000000000e-5 1
+ 1.462500000000e-5 0
+ 1.465000000000e-5 1
+ 1.467500000000e-5 0
+ 1.470000000000e-5 1
+ 1.472500000000e-5 0
+ 1.475000000000e-5 1
+ 1.477500000000e-5 0
+ 1.480000000000e-5 1
+ 1.482500000000e-5 0
+ 1.485000000000e-5 1
+ 1.487500000000e-5 0
+ 1.490000000000e-5 1
+ 1.492500000000e-5 0
+ 1.495000000000e-5 1
+ 1.497500000000e-5 0
+ 1.500000000000e-5 1
+ 1.502500000000e-5 0
+ 1.505000000000e-5 1
+ 1.507500000000e-5 0
+ 1.510000000000e-5 1
+ 1.512500000000e-5 0
+ 1.515000000000e-5 1
+ 1.517500000000e-5 0
+ 1.520000000000e-5 1
+ 1.522500000000e-5 0
+ 1.525000000000e-5 1
+ 1.527500000000e-5 0
+ 1.530000000000e-5 1
+ 1.532500000000e-5 0
+ 1.535000000000e-5 1
+ 1.537500000000e-5 0
+ 1.540000000000e-5 1
+ 1.542500000000e-5 0
+ 1.545000000000e-5 1
+ 1.547500000000e-5 0
+ 1.550000000000e-5 1
+ 1.552500000000e-5 0
+ 1.555000000000e-5 1
+ 1.557500000000e-5 0
+ 1.560000000000e-5 1
+ 1.562500000000e-5 0
+ 1.565000000000e-5 1
+ 1.567500000000e-5 0
+ 1.570000000000e-5 1
+ 1.572500000000e-5 0
+ 1.575000000000e-5 1
+ 1.577500000000e-5 0
+ 1.580000000000e-5 1
+ 1.582500000000e-5 0
+ 1.585000000000e-5 1
+ 1.587500000000e-5 0
+ 1.590000000000e-5 1
+ 1.592500000000e-5 0
+ 1.595000000000e-5 1
+ 1.597500000000e-5 0
+ 1.600000000000e-5 1
+ 1.602500000000e-5 0
+ 1.605000000000e-5 1
+ 1.607500000000e-5 0
+ 1.610000000000e-5 1
+ 1.612500000000e-5 0
+ 1.615000000000e-5 1
+ 1.617500000000e-5 0
+ 1.620000000000e-5 1
+ 1.622500000000e-5 0
+ 1.625000000000e-5 1
+ 1.627500000000e-5 0
+ 1.630000000000e-5 1
+ 1.632500000000e-5 0
+ 1.635000000000e-5 1
+ 1.637500000000e-5 0
+ 1.640000000000e-5 1
+ 1.642500000000e-5 0
+ 1.645000000000e-5 1
+ 1.647500000000e-5 0
+ 1.650000000000e-5 1
+ 1.652500000000e-5 0
+ 1.655000000000e-5 1
+ 1.657500000000e-5 0
+ 1.660000000000e-5 1
+ 1.662500000000e-5 0
+ 1.665000000000e-5 1
+ 1.667500000000e-5 0
+ 1.670000000000e-5 1
+ 1.672500000000e-5 0
+ 1.675000000000e-5 1
+ 1.677500000000e-5 0
+ 1.680000000000e-5 1
+ 1.682500000000e-5 0
+ 1.685000000000e-5 1
+ 1.687500000000e-5 0
+ 1.690000000000e-5 1
+ 1.692500000000e-5 0
+ 1.695000000000e-5 1
+ 1.697500000000e-5 0
+ 1.700000000000e-5 1
+ 1.702500000000e-5 0
+ 1.705000000000e-5 1
+ 1.707500000000e-5 0
+ 1.710000000000e-5 1
+ 1.712500000000e-5 0
+ 1.715000000000e-5 1
+ 1.717500000000e-5 0
+ 1.720000000000e-5 1
+ 1.722500000000e-5 0
+ 1.725000000000e-5 1
+ 1.727500000000e-5 0
+ 1.730000000000e-5 1
+ 1.732500000000e-5 0
+ 1.735000000000e-5 1
+ 1.737500000000e-5 0
+ 1.740000000000e-5 1
+ 1.742500000000e-5 0
+ 1.745000000000e-5 1
+ 1.747500000000e-5 0
+ 1.750000000000e-5 1
+ 1.752500000000e-5 0
+ 1.755000000000e-5 1
+ 1.757500000000e-5 0
+ 1.760000000000e-5 1
+ 1.762500000000e-5 0
+ 1.765000000000e-5 1
+ 1.767500000000e-5 0
+ 1.770000000000e-5 1
+ 1.772500000000e-5 0
+ 1.775000000000e-5 1
+ 1.777500000000e-5 0
+ 1.780000000000e-5 1
+ 1.782500000000e-5 0
+ 1.785000000000e-5 1
+ 1.787500000000e-5 0
+ 1.790000000000e-5 1
+ 1.792500000000e-5 0
+ 1.795000000000e-5 1
+ 1.797500000000e-5 0
+ 1.800000000000e-5 1
+ 1.802500000000e-5 0
+ 1.805000000000e-5 1
+ 1.807500000000e-5 0
+ 1.810000000000e-5 1
+ 1.812500000000e-5 0
+ 1.815000000000e-5 1
+ 1.817500000000e-5 0
+ 1.820000000000e-5 1
+ 1.822500000000e-5 0
+ 1.825000000000e-5 1
+ 1.827500000000e-5 0
+ 1.830000000000e-5 1
+ 1.832500000000e-5 0
+ 1.835000000000e-5 1
+ 1.837500000000e-5 0
+ 1.840000000000e-5 1
+ 1.842500000000e-5 0
+ 1.845000000000e-5 1
+ 1.847500000000e-5 0
+ 1.850000000000e-5 1
+ 1.852500000000e-5 0
+ 1.855000000000e-5 1
+ 1.857500000000e-5 0
+ 1.860000000000e-5 1
+ 1.862500000000e-5 0
+ 1.865000000000e-5 1
+ 1.867500000000e-5 0
+ 1.870000000000e-5 1
+ 1.872500000000e-5 0
+ 1.875000000000e-5 1
+ 1.877500000000e-5 0
+ 1.880000000000e-5 1
+ 1.882500000000e-5 0
+ 1.885000000000e-5 1
+ 1.887500000000e-5 0
+ 1.890000000000e-5 1
+ 1.892500000000e-5 0
+ 1.895000000000e-5 1
+ 1.897500000000e-5 0
+ 1.900000000000e-5 1
+ 1.902500000000e-5 0
+ 1.905000000000e-5 1
+ 1.907500000000e-5 0
+ 1.910000000000e-5 1
+ 1.912500000000e-5 0
+ 1.915000000000e-5 1
+ 1.917500000000e-5 0
+ 1.920000000000e-5 1
+ 1.922500000000e-5 0
+ 1.925000000000e-5 1
+ 1.927500000000e-5 0
+ 1.930000000000e-5 1
+ 1.932500000000e-5 0
+ 1.935000000000e-5 1
+ 1.937500000000e-5 0
+ 1.940000000000e-5 1
+ 1.942500000000e-5 0
+ 1.945000000000e-5 1
+ 1.947500000000e-5 0
+ 1.950000000000e-5 1
+ 1.952500000000e-5 0
+ 1.955000000000e-5 1
+ 1.957500000000e-5 0
+ 1.960000000000e-5 1
+ 1.962500000000e-5 0
+ 1.965000000000e-5 1
+ 1.967500000000e-5 0
+ 1.970000000000e-5 1
+ 1.972500000000e-5 0
+ 1.975000000000e-5 1
+ 1.977500000000e-5 0
+ 1.980000000000e-5 1
+ 1.982500000000e-5 0
+ 1.985000000000e-5 1
+ 1.987500000000e-5 0
+ 1.990000000000e-5 1
+ 1.992500000000e-5 0
+ 1.995000000000e-5 1
+ 1.997500000000e-5 0
+ 2.000000000000e-5 1
+ )
Rschedule_probe schedule_probe 0 1G

.options method=trap reltol=2e-4 abstol=1e-10 vntol=1e-7
.save time v(acsrc) v(acn) i(Vac) v(load) v(vb) i(Lboost) v(vd) v(sw) v(gate) v(q) v(en) v(fault) v(vcomp) v(icomp) v(xu.raw) v(xu.pwm_hold) v(pwm) v(pwm_input) v(xdriver.driver_req) v(xdriver.drv_delay) v(xu.phase) v(xu.blank) v(isense) v(xu.ov) v(xu.fault) v(xu.pcl_hold) v(xu.pcl_request) v(disable) v(xu.m1) v(xu.m2)
* Original normal diagnostics remain above. Fault checker schema plus four branch/marker extras follow.
.save time v(acsrc,acn) v(vd) v(vb) v(sw) v(gate) i(Lboost) i(Vchannel) i(Vbody) i(Vac) v(q) v(en) v(fault) v(f2ctl) v(standby_req) v(arm) v(permit) i(Vf2sense) i(Vdboost1sense) i(Vdboost2sense) v(fault_inject)

.tran {STEP} {TSTOP} 0 {STEP} uic
.end
